US07544690B2
To a suspension of 4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.30 mmol) in EtOAc (5 mL) was added 4 M hydrogen chloride in EtOAc (5 mL). The mixture was stirred at ambient temperature for 1 hr and concentrated to give a white solid. To a suspension of the above solid in CH2Cl2 (5 mL) was added diisopropylethylamine (480 μL, 2.76 mmol). The mixture was cooled to 4° C. and a solution of 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride (462 mg, 1.36 mmol) in CH2Cl2 (2 mL) was added below 5° C. The reaction mixture was stirred at 4° C. for 3 hr. The reaction was quenched with saturated aqueous NaHCO3 The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (NH-silica gel, 14% to 20% EtOAc in hexane) to give N2-[1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-N4,N4-dimethyl-quinazoline-2,4-diamine (420 mg, 55%) as a yellow solid.

reactant | 4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C | C21H31N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | diisopropylethylamine | 2.76 mmol, 480 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.36 mmol, 462 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N2-[1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-N4,N4-dimethyl-quinazoline-2,4-diamine | 420 mg, 55% | BrC1=CC(=C(C=C1)S(=O)(=O)N1CCC(CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)OC(F)(F)F | C23H25BrF3N5O3S
